US05275757
3) Preparation of 4-(5-octyl-1,3-dioxan-2-yl)benzonitrile
In a 500-ml egg-plant type flask were put 32.3 g of 2-octyl-1,3-propanediol, 22.5 g of p-cyanobenzaldehyde, 0.11 g of p-toluenesulfonic acid monohydrate and 300 ml of benzene, and the mixture was heated. The generated water was removed by azeotropy with benzene. Then, benzene was distilled away, and the residue was neutralized with aqueous saturated sodium bicarbonate solution. The mixture was extracted with dichloromethane, and the extract was washed with water and then dried over anhydrous sodium sulfate. Dichloromethane was distilled away to give a solid which was then recrystallized from isooctane to give 37.7 g of colorless crystals.

reactant | 2-octyl-1,3-propanediol | 32.3 g | C(CCCCCCC)C(CO)CO | C11H24O2
reactant | p-cyanobenzaldehyde | 22.5 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
catalyst | p-toluenesulfonic acid monohydrate | 0.11 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 4-(5-octyl-1,3-dioxan-2-yl)benzonitrile | 37.7 g | C(CCCCCCC)C1COC(OC1)C1=CC=C(C#N)C=C1 | C19H27NO2
